US07732444B2
Intermediate 1: 3-(2-Chloro-pyrimidin-4-yl)-benzaldehyde:
2,4 dichloropyrimidine and 3-formyl phenyl boronic acid were coupled following procedure A. The yield was 60%. LC-MS showed the product was >95% pure and had the expected M+H+ of 219. 1H NMR (Varian 300 MHz, CDCl3, shifts relative to the solvent peak at 7.24 ppm) 610.1 (s, 1H) 8.7 (d, 1H) 8.6 (m, 1H) 8.4 (m, 1H) 8.1 (m, 1H) 7.7 (m, 2H).

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-formyl phenyl boronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 3-(2-Chloro-pyrimidin-4-yl)-benzaldehyde | yield was 60% | ClC1=NC=CC(=N1)C=1C=C(C=O)C=CC1 | C11H7ClN2O
